US05594141
To a solution of 50 mg of 2-phenyl-4-chloromethylpyrimidine in 5 mL chloroform was added 80 mg 4-benzylpiperidine and 1 mL of N,N-diisopropylethylamine. The reaction mixture was heated at reflux temperature for 4 hr, cooled to room temperature, washed with 5 mL 1N sodium hydroxide solution and the solvent removed by evaporation under reduced pressure to yield 2-phenyl-4-[(4-benzyl-piperidin-1-yl)methyl]-pyrimidine. This material was purified by chromatography on silica gel using 5% methanol in dichloromethane as eluent. Evaporation of the solvent yielded a solid which was treated with ethereal-HCl to give 15 mg of 2-phenyl-4-[(4-benzyl-piperidin-1-yl)methyl]-pyrimidine dihydrochloride (Compound 11), mp 211°-213° C.

reactant | 2-phenyl-4-chloromethylpyrimidine | 50 mg | C1(=CC=CC=C1)C1=NC=CC(=N1)CCl | C11H9ClN2
reactant | 4-benzylpiperidine | 80 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-phenyl-4-[(4-benzyl-piperidin-1-yl)methyl]-pyrimidine | C1(=CC=CC=C1)C1=NC=CC(=N1)CN1CCC(CC1)CC1=CC=CC=C1 | C23H25N3
